US08580831B2
2-Methyl-5-phenyl-oxazole-4-carboxylic acid{2-[4-(1,1-difluoro-ethyl)-thiazol-2-ylmethyl]-2H-[1,2,3]triazol-4-yl}-amide
Following general procedure Z2, starting from 2-[4-(1,1-difluoro-ethyl)-thiazol-2-ylmethyl]-2H-[1,2,3]triazol-4-ylamine and 2-methyl-5-phenyl-oxazole-4-carboxylic acid.

reactant | 2-[4-(1,1-difluoro-ethyl)-thiazol-2-ylmethyl]-2H-[1,2,3]triazol-4-ylamine | FC(C)(F)C=1N=C(SC1)CN1N=CC(=N1)N | C8H9F2N5S
reactant | 2-methyl-5-phenyl-oxazole-4-carboxylic acid | CC=1OC(=C(N1)C(=O)O)C1=CC=CC=C1 | C11H9NO3
product | 2-Methyl-5-phenyl-oxazole-4-carboxylic acid{2-[4-(1,1-difluoro-ethyl)-thiazol-2-ylmethyl]-2H-[1,2,3]triazol-4-yl}-amide | FC(C)(F)C=1N=C(SC1)CN1N=CC(=N1)NC(=O)C=1N=C(OC1C1=CC=CC=C1)C | C19H16F2N6O2S
